US05114940
Ethyl diethoxyacetate (Ex. Fluka) (25 g) was added to sodium hydroxide (5.68 g) in ethanol (60 ml) and water (30 ml). After heating under reflux for 5 hours the solvents were removed at reduced pressure and the residue dried in vacuo to give sodium diethoxyacetate (23.2 g). The salt was then converted to diethoxyacetyl chloride and reacted with benzylamine to give N-benzyl diethoxyacetamide which was cyclised with conc. sulphuric acid according to Fukumi and Hideshi, Heterocycles, 9, 1197 (1978) to give 3-hydroxyisoquinoline.

reactant | Ethyl diethoxyacetate | 25 g | C(C)OC(C(=O)OCC)OCC | C8H16O4
reactant | sodium hydroxide | 5.68 g | [OH-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | sodium diethoxyacetate | 23.2 g | C(C)OC(C(=O)[O-])OCC.[Na+] | InChI=1S/C6H12O4.Na/c1-3-9-6(5(7)8)10-4-2;/h6H,3-4H2,1-2H3,(H,7,8);/q;+1/p-1
